US04638060
(A) N-(t-Butoxycarbonyl)-α-(1-hydroxycyclobutyl)-glycine, benzyl ester
A solution of diisopropylamine (9.7 ml, 70 mmoles) in 150 ml of dry tetrahydrofuran at -40° C. under argon was treated with 39 ml (64.5 mmoles) of 1.71N n-butyllithium in hexane and the pale yellow solution stirred at -40° C. for 20 minutes. The solution was cooled to -78° C., and a solution of 7.95 g (30 mmoles) of N-(t-butoxycarbonyl) glycine, benzyl ester in 30 ml of dry tetrahydrofuran was dripped in over 5 minutes, resulting in a dark yellow solution, and, after 20 minutes, a slight turbidity. After 0.5 hours, a solution of 2.42 g (2.0 ml, 34.5 mmoles) of cyclobutanone in 30 ml of tetrahydrofuran was added. The resulting yellow turbid mixture was stirred at -78° C. for 15 minutes, then placed in a 0° C. ice bath for 2 hours. At an internal temperature of -25° C. (1 hour), the solution became clear, and at -15° C. turned dark purple. It was stirred at 0° C. for 0.5 hours, then treated with 3.96 g (66 mmoles) of glacial acetic acid in 15 ml of tetrahydrofuran, giving a turbid, light yellow mixture. This was poured into 500 ml of cold water and extracted twice with ethyl acetate. The extracts were washed with 2% potassium bisulfate, 5% sodium bicarbonate, and brine, dried (sodium sulfate) and evaporated to a thick oil. Chromatography on 800 ml of LPS-1 in hexane:ethyl acetate (2:1) and combination of the product fractions (Rf=.29) gave 7.8 g of product as an oil.

reactant | diisopropylamine | 70 mmoles, 9.7 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 64.5 mmoles, 1.71N, 39 ml | C(CCC)[Li]
reactant | N-(t-butoxycarbonyl) glycine, benzyl ester | 30 mmoles, 7.95 g | C(C)(C)(C)OC(=O)NCC(=O)OCC1=CC=CC=C1 | C14H19NO4
reactant | cyclobutanone | 34.5 mmoles, 2.0 ml, 2.42 g | C1(CCC1)=O | C4H6O
reactant | acetic acid | 66 mmoles, 3.96 g | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 500 ml | O | H2O
product | N-(t-Butoxycarbonyl)-α-(1-hydroxycyclobutyl)-glycine, benzyl ester | 7.8 g | C(C)(C)(C)OC(=O)NC(C(=O)OCC1=CC=CC=C1)C1(CCC1)O | C18H25NO5
